US07718652B2
In an analogous manner to Example 1, step 8, 3-(3-chloropropyl)-1-(4-methoxyphenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (105 mg) was reacted with methylamine and then treated with HCl to provide 3-[1-(4-methoxyphenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]-N-methylpropan-1-amine hydrochloride (32 mg):

reactant | 3-(3-chloropropyl)-1-(4-methoxyphenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 105 mg | ClCCCN1S(N(C2=C(C1)C=CC=C2)C2=CC=C(C=C2)OC)(=O)=O | C17H19ClN2O3S
reactant | methylamine | CN | CH5N
reactant | HCl | Cl | ClH
product | 3-[1-(4-methoxyphenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]-N-methylpropan-1-amine hydrochloride | 32 mg | Cl.COC1=CC=C(C=C1)N1S(N(CC2=C1C=CC=C2)CCCNC)(=O)=O | InChI=1S/C18H23N3O3S.ClH/c1-19-12-5-13-20-14-15-6-3-4-7-18(15)21(25(20,22)23)16-8-10-17(24-2)11-9-16;/h3-4,6-11,19H,5,12-14H2,1-2H3;1H
